US09085555B2
A. 5-Bromo-7H-pyrrolo[2,3-d]pyrimidine
A solution of bromine (0.086 mL, 1.68 mmol) in DMF (5.5 mL) was added to a solution of 7H-pyrrolo[2,3-d]pyrimidine (200 mg, 1.68 mmol) in DMF (5.5 mL). The reaction mixture was stirred at RT for 4 h and poured into a mixture of ice and water containing Na2S2O3. A saturated aqueous solution of NaHCO3 was added (until basic pH), the layers were separated and the aqueous layer was extracted twice with EtOAc. The combined organic extracts were washed with brine, dried (Na2SO4), filtered and concentrated. The material thus obtained was used without further purification in the next step. TLC, Rf (CH2Cl2/MeOH 9:1)=0.45; MS (UPLC/MS): 198.1/200.1 [M+H]+, 196.1/198.1 [M−H]−.

reactant | bromine | 1.68 mmol, 0.086 mL | BrBr | Br2
reactant | 7H-pyrrolo[2,3-d]pyrimidine | 1.68 mmol, 200 mg | N1=CN=CC2=C1NC=C2 | C6H5N3
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-Bromo-7H-pyrrolo[2,3-d]pyrimidine | BrC1=CNC=2N=CN=CC21 | C6H4BrN3
